US08835428B2
(S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-N-hydroxy-isoxazole-5-carboximidoyl}-amino)-3-methyl-butyric acid
To a solution of (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-N-hydroxy-isoxazole-5-carboximidoyl}-amino)-3-methyl-butyric acid methyl ester (0.3 g; 0.62 mmol) in THF (3 ml) was added 1N LiOH (0.81 ml; 0.81 mmol) under stirring for 48 hours, followed by heating at 40-45° C. for 2 hours. Solvent was removed from the reaction mixture and the residue was diluted with water (5 ml) and acidified to pH 2 with 2N HCl. The semisolid material obtained was extracted with EtOAc, washed with water (2×5 ml), and dried over anhydrous Na2SO4. The residue was purified by flash chromatography with 10-50% MeOH in chloroform. The pure material obtained was triturated with acetone and light petroleum, filtered and dried under vacuum pump to yield 0.16 g (55%) of the title compound. Mass

reactant | (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-N-hydroxy-isoxazole-5-carboximidoyl}-amino)-3-methyl-butyric acid methyl ester | 0.62 mmol, 0.3 g | COC([C@H](C(C)C)NC(=NO)C1=CC(=NO1)C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)=O | C23H22FN5O4S
reactant | LiOH | 0.81 mmol, 1N, 0.81 ml | [Li+].[OH-]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-N-hydroxy-isoxazole-5-carboximidoyl}-amino)-3-methyl-butyric acid | 0.16 g, 55% | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=NOC(=C2)C(=NO)N[C@H](C(=O)O)C(C)C)C=C1 | C22H20FN5O4S
